US08039469B2
Step 2: Preparation of 1-(4-(4-chloro-6-(3,5-dimethylmorpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea
The title compound was prepared by following the procedure of example 462 step 4 using 4-(4,6-dichloro-1,3,5-triazin-2-yl)-3,5-dimethylmorpholine and 1-methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea. Yield 1.15 g, 16% yield.

reactant | 4-(4,6-dichloro-1,3,5-triazin-2-yl)-3,5-dimethylmorpholine | ClC1=NC(=NC(=N1)Cl)N1C(COCC1C)C | C9H12Cl2N4O
reactant | 1-methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
product | 1-(4-(4-chloro-6-(3,5-dimethylmorpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea | 16% yield | ClC1=NC(=NC(=N1)N1C(COCC1C)C)C1=CC=C(C=C1)NC(=O)NC | C17H21ClN6O2
